US05576321
Preparation of 6,7-dichloro-3-(1,2,3,6-tetrahydropyridin-4-yl)-1H-indole
The title compound was prepared in a fashion similar to that described in Preparation 30 from 6,7-dichloroindole (1.4 g, 7.5 mmol) and 4-piperidone hydrochloride hydrate (2.3 g, 15 mmol). The product was isolated as a white solid. Yield 1.8 g (89%). mp 252°-254° C. FDMS m/e=268 (M+ of free base).

reactant | 6,7-dichloroindole | 7.5 mmol, 1.4 g | ClC1=CC=C2C=CNC2=C1Cl | C8H5Cl2N
reactant | 4-piperidone hydrochloride hydrate | 15 mmol, 2.3 g | O.Cl.N1CCC(CC1)=O
product | 6,7-dichloro-3-(1,2,3,6-tetrahydropyridin-4-yl)-1H-indole | ClC1=CC=C2C(=CNC2=C1Cl)C=1CCNCC1 | C13H12Cl2N2
